US07795247B2
Step 4: tert-butyl 3-cyclohexyl-1H-indole-6-carboxylate
2 eq of tert-butyl N,N′-diisopropylimidocarbamate (prepared according to literature precedent: Synthesis 1979, 561) were added to a solution of 3-cyclohexyl-1H-indole-6-carboxylic acid (prepared as described in published International patent application WO2004087714) in CH2Cl2 (0.4 M) and the mixture heated at reflux under N2 for 16 h. A further 2.5 eq of tert-butyl N,N′-diisopropylimidocarbamate were then added portionwise over 3 h, with heating being resumed after each addition. The reaction mixture was then filtered whilst hot through a pad of CELITE and the filtrate concentrated in vacuo. The residue was purified by flash chromatography (5% EtOAc/PE) to afford the title compound (58%); MS (ES−) m/z 298 (M−H)−.

reactant | tert-butyl N,N′-diisopropylimidocarbamate | 2 eq | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
reactant | 3-cyclohexyl-1H-indole-6-carboxylic acid | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H17NO2
reactant | tert-butyl N,N′-diisopropylimidocarbamate | 2.5 eq | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
solvent | CH2Cl2 | 0.4 M | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-cyclohexyl-1H-indole-6-carboxylate | 58% | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC(C)(C)C | C19H25NO2
